US08034812B2
Production of N-[5-({2-[(cyclopropylsulfonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide.hydrochloride (400 mg, 0.97 mmol) in 1-methyl-2-pyrrolidone (4.0 mL) were added triethylamine (404 μL, 2.90 mmol) and cyclopropanesulfonyl chloride (204 mg, 1.45 mmol), and the mixture was stirred at 70° C. for 16 hr. After cooling to room temperature, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate alone) and recrystallized from hexane/ethyl acetate to give the title compound (74 mg, 16%) as a white powder.

reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide.hydrochloride | 0.97 mmol, 400 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1
reactant | triethylamine | 2.90 mmol, 404 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanesulfonyl chloride | 1.45 mmol, 204 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidone | 4.0 mL | CN1C(CCC1)=O | C5H9NO
product | N-[5-({2-[(cyclopropylsulfonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 74 mg, 16% | C1(CC1)S(=O)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1 | C22H23N7O4S
